US07790724B2
a) 4′-Amino-biphenyl-4-sulfonic acid dimethylamide
To a round bottom flask was added 4-bromo-N,N-dimethyl-benzenesulfonamide (as prepared in the previous step, 539 mg, 2.28 mmol), 4-aminophenylboronic acid (500 mg, 2.28 mmol), Pd(OAc)2 (51 mg, 0.22 mmol), K3PO4 (967 mg, 4.56 mmol) and 2-(dicyclohexyl-phosphino)-biphenyl (319 mg, 0.910 mmol). The flask was charged with toluene (10 mL) and dioxane (10 mL) and heated to 90° C. under Ar. After 5 h the reaction was concentrated in vacuo and the residue was purified by a 10-g silica gel SPE-column eluting with DCM followed by 10% MeOH-DCM to afford 67 mg (10%) of the title compound as a tan solid. Mass spectrum (ESI, m/z): Calcd. for C14H16N2O2S, 277.0 (M+H), found 277.1.

reactant | 4-bromo-N,N-dimethyl-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H10BrNO2S
reactant | 4-aminophenylboronic acid | 2.28 mmol, 500 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | K3PO4 | 4.56 mmol, 967 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-(dicyclohexyl-phosphino)-biphenyl | 0.910 mmol, 319 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
catalyst | Pd(OAc)2 | 0.22 mmol, 51 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-Amino-biphenyl-4-sulfonic acid dimethylamide | 67 mg, 10% | CN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)C | C14H16N2O2S
